US07338959B2
A. (1-Methyl-5-nitro-1H-benzoimidazol-2-yl)-phenethyl-amine
N1-methyl-4-nitro-benzene-1,2-diamine (2.0 g, 12.0 mmol) and phenethyl isothiocyanate (2.15 g, 13.2 mmol) were coupled using the procedure of intermediate example one part B to give the title compound as a yellow solid (2.36 g, 66%). 1H NMR (300 MHz, d6-DMSO) δ 8.01 (d, J=2.1 Hz, 1H), 7.90 (dd, J=8.7 and 2.4 Hz, 1H), 7.21-7.35 (m, 7H), 3.58-3.65 (m, 2H), 3.56 (s, 3H), 2.93-2.98 (m, 2H) ppm.

reactant | N1-methyl-4-nitro-benzene-1,2-diamine | 12.0 mmol, 2.0 g | CNC=1C(=CC(=CC1)[N+](=O)[O-])N | C7H9N3O2
reactant | phenethyl isothiocyanate | 13.2 mmol, 2.15 g | C(CC1=CC=CC=C1)N=C=S | C9H9NS
product | (1-Methyl-5-nitro-1H-benzoimidazol-2-yl)-phenethyl-amine | 2.36 g, 66% | CN1C(=NC2=C1C=CC(=C2)[N+](=O)[O-])NCCC2=CC=CC=C2 | C16H16N4O2
